US08486931B2
1.2 5-Chloro-3-(2,4-dimethoxyphenyl)-3-(4-pyridin-4-ylpiperazin-1-yl)-1-(quinoline-8-sulfonyl)-1,3-dihydroindol-2-one
Potassium tert-butoxide (26.6 mg, 0.24 mmol) was added to a solution of 5-chloro-3-(2,4-dimethoxyphenyl)-3-(4-pyridin-4-ylpiperazin-1-yl)-1,3-dihydroindol-2-one (0.10 g, 0.22 mmol) in dimethylformamide (4 mL) at 0° C., and the mixture was stirred at 0° C. for 1 hour. Then 8-quinolinesulfonyl chloride (53.9 mg, 0.24 mmol) was added to the reaction solution while cooling in ice, and the mixture was stirred at room temperature for 12 hours. Water was cautiously added to the mixture, which was extracted twice with ethyl acetate. The combined organic phase was washed with water and saturated brine, dried over sodium sulfate and concentrated under reduced pressure. Chromatographic purification of the residue on silica gel (mobile phase gradient 0-7% methanol in dichloromethane) afforded 57.0 mg of the title compound.

reactant | Potassium tert-butoxide | 0.24 mmol, 26.6 mg | CC(C)([O-])C.[K+]
reactant | 5-chloro-3-(2,4-dimethoxyphenyl)-3-(4-pyridin-4-ylpiperazin-1-yl)-1,3-dihydroindol-2-one | 0.22 mmol, 0.10 g | ClC=1C=C2C(C(NC2=CC1)=O)(N1CCN(CC1)C1=CC=NC=C1)C1=C(C=C(C=C1)OC)OC | C25H25ClN4O3
reactant | 8-quinolinesulfonyl chloride | 0.24 mmol, 53.9 mg | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | Water | O | H2O
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 5-Chloro-3-(2,4-dimethoxyphenyl)-3-(4-pyridin-4-ylpiperazin-1-yl)-1-(quinoline-8-sulfonyl)-1,3-dihydroindol-2-one | 57.0 mg | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C=1C=CC=C2C=CC=NC12)=O)(N1CCN(CC1)C1=CC=NC=C1)C1=C(C=C(C=C1)OC)OC | C34H30ClN5O5S
